US07419984B2
6-(5-Chloro-2-methyl-phenyl)-N*4*-(4-trifluoromethyl-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 26, 4-chloro-6-(5-chloro-2-methyl-phenyl)-pyrimidin-2-yl-amine and 4-trifluoromethyl-phenylamine provided the title compound (46% yield). 1H NMR (DMSO-d6) δ 2.36 (s, 3H, CH3), 6.17 (s, 1H, Ar), 6.54 (s, 2H, NH2), 7.32 (d, 1H, J=8.3 Hz, Ar), 7.38 (dd, 1H, J=8.1 Hz, J—2.3 Hz, Ar), 7.43 (d, 1H, J=2.1 Hz, Ar), 7.61 (d, 2H, J=8.7 Hz, Ar), 8.00 (d, 2H, J=8.5 Hz, Ar), 9.63 (s, 1H, NH).

reactant | 4-chloro-6-(5-chloro-2-methyl-phenyl)-pyrimidin-2-yl-amine | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)C)N | C11H9Cl2N3
reactant | 4-trifluoromethyl-phenylamine | FC(C1=CC=C(C=C1)N)(F)F | C7H6F3N
product | 6-(5-Chloro-2-methyl-phenyl)-N*4*-(4-trifluoromethyl-phenyl)-pyrimidine-2,4-diamine | 46% yield | ClC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)C(F)(F)F)C | C18H14ClF3N4
